US08604029B2
Under nitrogen, phosphorus pentoxide (0.98 g, 6.90 mmol) was added portionwise to a slurry of 2-chloro-N-(2,2-dimethoxy-ethyl)-5-nitro-benzamide (0.5 g, 1.73 mmol) in methanesulfonic acid (5 mL) at r.t. The mixture was heated to 140-145° C. for 6 h. After cooling to r.t., the mixture was poured onto ice-water and extracted with ethyl acetate. The combined organic phases were washed with water then brine, dried over sodium sulfate, filtered and concentrated in vacuo. Further drying under high vacuum gave 2-(2-chloro-5-nitrophenyl)-oxazole (0.366 g, 94%) as a solid.

reactant | phosphorus pentoxide | 6.90 mmol, 0.98 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | 2-chloro-N-(2,2-dimethoxy-ethyl)-5-nitro-benzamide | 1.73 mmol, 0.5 g | ClC1=C(C(=O)NCC(OC)OC)C=C(C=C1)[N+](=O)[O-] | C11H13ClN2O5
solvent | methanesulfonic acid | 5 mL | CS(=O)(=O)O | CH4O3S
product | 2-(2-chloro-5-nitrophenyl)-oxazole | 0.366 g, 94% | ClC1=C(C=C(C=C1)[N+](=O)[O-])C=1OC=CN1 | C9H5ClN2O3
